US07579351B2
(R)-8-Hydroxy-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one
The solution of 0.60 g (1.26 mmol) 1-((R)-2-tert-butoxycarbonylamino-1-methyl-ethyl)-5-(tert-butyl-dimethyl-silanyloxy)-1H-indole-2-carboxylic acid ethyl ester in 8 mL dichloromethane was cooled to 0° C. and 1.9 mL (2.8 g, 24.9 mmol) trifluoroacetic acid was added dropwise within 5 min. The cooling bath was removed and after 1.5 hours the volatile components were removed at a rotary evaporator. The residue was dissolved in methanol, cooled to 0° C. and 0.69 g (5.0 mmol) potassium carbonate was added. The suspension was stirred for 6 hours at room temperature, diluted with water and ethyl acetate and the layers were separated. The aqueous phase was extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and evaporated. The crude product was purified by flash column chromatography on silica gel with ethyl acetate as eluant to give 0.15 g (57%) of the desired product as a light brown gum.

reactant | 1-((R)-2-tert-butoxycarbonylamino-1-methyl-ethyl)-5-(tert-butyl-dimethyl-silanyloxy)-1H-indole-2-carboxylic acid ethyl ester | 1.26 mmol, 0.60 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)O[Si](C)(C)C(C)(C)C)[C@@H](CNC(=O)OC(C)(C)C)C | C25H40N2O5Si
reactant | trifluoroacetic acid | 24.9 mmol, 1.9 mL, 2.8 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium carbonate | 5.0 mmol, 0.69 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-8-Hydroxy-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 0.15 g, 57% | OC1=CC=2C=C3N(C2C=C1)[C@@H](CNC3=O)C | C12H12N2O2
